US07981903B2
To a suspension of 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one HCl salt (375 mg, 0.782 mmol) in 2,2,2-trifluoroethanol (10 mL) was added N1-[5-amino-2-methyl-4-(methyloxy)phenyl]-N2,N2-dimethylglycinamide (204 mg, 0.861 mmol). The resulting mixture was let stir at 60° C. for 45 min. Solvents were removed under reduced pressure to afford a green residue. Half of this material was dissolved in THF (10 mL) and a 2M solution of methylamine in THF (3.88 ml, 7.77 mmol) was added. After stirring at rt for 18 h, the reaction was diluted with EtOAc and the organic layer was washed with water and a saturated brine solution and dried over sodium sulfate. Solvents were removed under reduced pressure. The residue was dissolved in dioxane (6 mL) in a microwave safe vessel and 2N NaOH (3 mL) was added. The reaction was then heated in a microwave at 120° C. for 25 min. The reaction was diluted with EtOAc and the organic layer was washed with water and saturated brine solution and dried over sodium sulfate. Solvents were removed under reduced pressure and the residue purified by chromatography on SiO2 to afford 2-[(2-{[5-[(N,N-dimethylglycyl)amino]-4-methyl-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide (124 mg, 0.238 mmol) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.16 (s, 3 H) 2.31 (s, 6H) 2.79 (d, J=4.58 Hz, 3 H) 3.01 (s, 2 H) 3.83 (s, 3 H) 6.29 (dd, J=3.11, 1.83 Hz, 1 H) 6.83-7.02 (m, 3 H) 7.38-7.53 (m, 2 H) 8.16 (s, 1 H) 8.31 (d, J=8.24 Hz, 1 H) 8.55 (d, J=2.75 Hz, 1 H) 9.17 (s, 1 H) 10.16 (s, 1 H) 11.34 (s, 1 H). ESIMS (M+H)+=521.

reactant | 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one HCl salt | 0.782 mmol, 375 mg | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C
reactant | N1-[5-amino-2-methyl-4-(methyloxy)phenyl]-N2,N2-dimethylglycinamide | 0.861 mmol, 204 mg | NC=1C(=CC(=C(C1)NC(CN(C)C)=O)C)OC | C12H19N3O2
reactant | methylamine | CN | CH5N
solvent | 2,2,2-trifluoroethanol | 10 mL | FC(CO)(F)F | C2H3F3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 7.77 mmol, 3.88 ml | C1CCOC1 | C4H8O
product | 2-[(2-{[5-[(N,N-dimethylglycyl)amino]-4-methyl-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 0.238 mmol, 124 mg | CN(CC(=O)NC=1C(=CC(=C(C1)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C)C | C26H29FN8O3
